US08541411B2
Preparation of 1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid
A mixture of methyl 1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate, prepared as described in Example 46 (510 mg, 1.017 mmol) and 2 M lithium hydroxide (6 mL, 12.00 mmol) in THF (12 mL) was stirred at 50° C. for 2 h. The reaction was cooled to room temperature. The organic solvent was removed under reduced pressure and the aqueous was diluted with water and acidified by the addition of 1 N HCl. The precipitate formed was collected by filtration. The solid was washed with ether and turned into a gummy residue. The residue was washed with MeOH until all the material was transferred into the collection flask. The organics were evaporated and a white solid formed upon standing. The precipitate was collected by filtration, washed with water and dried to give the desired product (438 mg, 0.881 mmol, 87% yield) as a white powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.68 (d, J=2.02 Hz, 1H), 7.61 (d, J=8.08 Hz, 1H), 7.23 (t, J=7.83 Hz, 1H), 7.08 (d, J=2.02 Hz, 1H), 6.27 (d, J=7.58 Hz, 1H), 5.74 (s, 2H), 3.63-3.82 (m, 4H), 3.05-3.21 (m, 4H), 2.52 (br. s., 3H). MS (ES+) m/e 488 [M+H]+.

reactant | methyl 1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate | CC1=C(C=CC=C1C(F)(F)F)CN1C(=NC2=C1C=C(C=C2C(=O)OC)N2CCOCC2)C(F)(F)F | C23H21F6N3O3
reactant | lithium hydroxide | 12.00 mmol, 2 M, 6 mL | [OH-].[Li+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid | 0.881 mmol, 438 mg, 87% yield | CC1=C(C=CC=C1C(F)(F)F)CN1C(=NC2=C1C=C(C=C2C(=O)O)N2CCOCC2)C(F)(F)F | C22H19F6N3O3
